US04193999
A. 1,3-Di-O-(n-hexadecyl)-2-O-(3-acetamidopropyl)-glycerol
1,3-Di-O-(n-hexadecyl)-2-O-(3-aminopropyl)-glycerol hydrochloride (1.0 g., 1.6 mmoles) was added to a mixture of potassium carbonate (830 mg., 6.0 mmoles) and benzene (75 ml.). Acetyl chloride (150 mg., 1.9 mmoles) was then added and the resulting mixture stirred for one hour at reflux. Additional acetyl chloride (150 mg., 1.9 moles) was added and the reaction mixture stirred for another hour at reflux. TLC analysis showed that the reaction was essentially complete. The reaction mixture was cooled, water (75 ml.) added, and the resulting mixture extracted with ether (3×100 ml.). The combined ether extract was dried (MgSO4), filtered and evaporated in vacuo to yield the named compound [800 mg., 79% yield, m.p. 53°-54° C., ir (CHCl3) 3400 and 1670 cm-1, n.m.r. (CDCl3) δ 1.97 (s, 3, --NHCOCH3)].

reactant | 1,3-Di-O-(n-hexadecyl)-2-O-(3-aminopropyl)-glycerol hydrochloride | 1.6 mmoles, 1.0 g | Cl.C(CCCCCCCCCCCCCCC)OCC(OCCCN)COCCCCCCCCCCCCCCCC
reactant | potassium carbonate | 6.0 mmoles, 830 mg | C([O-])([O-])=O.[K+].[K+]
reactant | benzene | 75 ml | C1=CC=CC=C1 | C6H6
reactant | Acetyl chloride | 1.9 mmoles, 150 mg | C(C)(=O)Cl | C2H3ClO
reactant | acetyl chloride | 1.9 moles, 150 mg | C(C)(=O)Cl | C2H3ClO
solvent | water | 75 ml | O | H2O
product | 1,3-Di-O-(n-hexadecyl)-2-O-(3-acetamidopropyl)-glycerol | 79% yield | C(CCCCCCCCCCCCCCC)OCC(OCCCNC(C)=O)COCCCCCCCCCCCCCCCC | C40H81NO4
